* D:\AnalogFlow\output\generated\sim_00569.asc
VCC N001 0 5
VEE N009 0 -5
V1 Vin1 0 DC {VIN1}
V2 Vin2 0 DC {VIN2}
XINPUT_BUFFER_1 Vin1 N002 N001 N009 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XINPUT_BUFFER_2 Vin2 N013 N001 N009 N013 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XWEIGHTED_SUM 0 N004 N001 N009 Vz level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Rf Vz N004 20k
Vbias N014 0 {VBIAS}
Rb N014 N004 20k
XGAIN_STAGE 0 N008 N001 N009 N005 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N008 Vz 10k
R4 N005 N008 10k
XACTIVATION 0 N006 N001 N009 N007 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Rin N006 N005 10k
Rf2 N007 N006 4.7k
XLIMITER 0 N003 N001 N009 N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D1 N003 N011 D
D2 N011 N003 D
R5 N003 N012 10k
R6 N011 N003 20k
XOUTPUT_STAGE N007 N010 N001 N009 Vout level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Vref N010 0 {VTH}
R_WEIGHT1 N002 N004 {W1}
R_WEIGHT2 N013 N004 {W2}
.model D D
.lib C:\Users\arush\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 100m uic
.param W1=20k
.param W2=20k
.param VBIAS=2
.param VTH=-1.4
.param VIN1=4.2
.param VIN2=4.4
.lib UniversalOpAmp2.lib
.backanno
.end
